US07723333B2
2-tert-Butyl-4-[(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.50 mmol) and (2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amine (0.083 g, 0.50 mmol) and TEA (0.07 mL, 0.50 mmol) in MeCN (2 mL) was heated in a microwave reactor at 100° C. for 45 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography using a 15-25% EtOAc in petroleum ether mixture as eluant, to give the title compound (0.139 g, 65%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.54-7.50 (m, 2H), 7.50-7.45 (m, 3H), 6.92-6.82 (m, 4H), 5.65 (t, 1H), 4.12-4.04 (m, 1H), 3.86 (dd, 1H), 3.68 (dd, 1H), 3.17 (t, 2H), 1.75 (s, 9H); 13C NMR (125 MHz, CDCl3): δ 159.5, 142.9, 142.3, 135.1, 131.7, 130.2, 129.2, 124.8, 122.2, 122.1, 117.7, 117.5, 108.7, 71.4, 65.3, 61.9, 44.1, 27.9; Mass Spectrum: [M+H]+ 429.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.50 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | (2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amine | 0.50 mmol, 0.083 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 2-tert-Butyl-4-[(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.139 g, 65% | C(C)(C)(C)N1S(C(=C(C1=O)NCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2)(=O)=O | C22H24N2O5S
